US04992431
Using the procedure of Step A of Example 8, 27.2 g of 7-amino-cephalosporanic acid, 170 ml of the etherate of of boron trifluoride, 131 ml of propanol and 128 ml of triethylamine were reacted to obtain 17.4 g of raw product which was purified with hot hydrochloric acid and ammonium hydroxide to obtain 7.45 g of 3-propoxymethyl-7-amino-ceph-3-eme-4-carboxy-lic acid.

reactant | 7-amino-cephalosporanic acid | 27.2 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | boron trifluoride | B(F)(F)F | BF3
reactant | propanol | 131 ml | C(CC)O | C3H8O
solvent | triethylamine | 128 ml | C(C)N(CC)CC | C6H15N
product | 3-propoxymethyl-7-amino-ceph-3-eme-4-carboxy-lic acid | 7.45 g | C(CC)OCC=1CS[C@H]2N(C1C(=O)O)C(C2N)=O | C11H16N2O4S
